US08431573B2
4-(4-Ethylpiperazin-1-yl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile
50 mg (0.17 mmol) of 6-oxo-4-(piperazin-1-yl)-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile are dissolved together with 34 mg (0.33 mmol) of triethylamine in DMF and, after addition of 19.9 mg (0.18 mmol) of bromoethane, stirred at RT overnight. The mixture is then diluted with dichloromethane and washed with water. The organic phase is separated off and dried over sodium sulphate, and the residue is flash-chromatographed on silica gel (mobile phase: dichloromethane/methanol 100:1, 80:1, 60:1, 40:1). 38 mg (70% of theory) of the title compound are obtained.

reactant | 6-oxo-4-(piperazin-1-yl)-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | 0.17 mmol, 50 mg | O=C1C(=C(N=C(N1)CC1=CSC=C1)N1CCNCC1)C#N | C14H15N5OS
reactant | triethylamine | 0.33 mmol, 34 mg | C(C)N(CC)CC | C6H15N
reactant | bromoethane | 0.18 mmol, 19.9 mg | BrCC | C2H5Br
solvent | DMF | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(4-Ethylpiperazin-1-yl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | C(C)N1CCN(CC1)C=1N=C(NC(C1C#N)=O)CC1=CSC=C1 | C16H19N5OS
